US07173045B2
A mixture of the diastereoisomers of (4-aminomethyl-1-phenylcyclohexyl)dimethylamine (465 mg, 2.0 mmol.) and 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride (830 mg, 3 mmol.) was added to a solution of indol-1-ylacetic acid (350 mg, 2.0 mmol.) in abs. methanol (25 ml), and the reaction mixture was stirred for 2 d at RT. For working up, the mixture was concentrated, water (15 ml) was added to the residue, the pH was adjusted to 11 with 5M NaOH and extraction was carried out with EE (3×15 ml). The combined extracts were dried, filtered and concentrated. The residue was a diastereoisomeric mixture of the bases of the target products, which was separated by flash chromatography on silica gel (70 g) and purified (eluant: methanol/EE 500 ml 1:3, then 1000 ml 1:1). 244 mg of the non-polar diastereoisomer of N-(4-dimethylamino-4-phenylcyclohexylmethyl)-2-indol-1-yl-acetamide were obtained in the form of a viscous oil. 50 mg (0.128 mmol.) thereof were dissolved in 2-butanone (2 ml), and chlorotrimethylsilane (24.4 μl, 0.193 mmol.) was added thereto. There immediately formed a pale precipitate, which turned a strong colour within a few minutes. The solid was filtered off with suction, washed with ether (3×0.5 ml) and dried in vacuo. The hydrochloride 7/8 of the non-polar target product was thus obtained in a yield of 52 mg (brick-red solid, m.p. 176–186° C.).

reactant | (4-aminomethyl-1-phenylcyclohexyl)dimethylamine | 2.0 mmol, 465 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 3 mmol, 830 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | indol-1-ylacetic acid | 2.0 mmol, 350 mg | N1(C=CC2=CC=CC=C12)CC(=O)O | C10H9NO2
solvent | methanol | 25 ml | CO | CH4O
product | N-(4-dimethylamino-4-phenylcyclohexylmethyl)-2-indol-1-yl-acetamide | CN(C1(CCC(CC1)CNC(CN1C=CC2=CC=CC=C12)=O)C1=CC=CC=C1)C | C25H31N3O
